US06635640B2
Methyl iodide (130.6 mg, 0.92 mmol) was added to a solution of 4-piperidin-4-yl-1,3-dihydroindol-2-one (199 mg, 0.92 mmol) in acetonitrile (10 mL) and methanol (1 mL). The reaction was stirred at room temperature under nitrogen for 2 days. The solvents were removed and the residue was purified on a silica gel column to give 150 mg (70%) of 4-(1-methylpiperidin-4-yl)-1,3-dihydroindol-2-one as a tan solid.

reactant | Methyl iodide | 0.92 mmol, 130.6 mg | CI | CH3I
reactant | 4-piperidin-4-yl-1,3-dihydroindol-2-one | 0.92 mmol, 199 mg | N1CCC(CC1)C1=C2CC(NC2=CC=C1)=O | C13H16N2O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | methanol | 1 mL | CO | CH4O
product | 4-(1-methylpiperidin-4-yl)-1,3-dihydroindol-2-one | 150 mg, 70% | CN1CCC(CC1)C1=C2CC(NC2=CC=C1)=O | C14H18N2O
